data/mechanisms/records/IMS8-EQ8.87.json
{"mechanism_id": "IMS8-EQ8.87", "species": [{"species_id": "exo_4_tert_butyladamantan_2_one_molecular_ion", "mapped_smiles": "[O+:1]=[C:2]1[CH:3]2[CH2:9][CH:8]3[CH2:7][CH:6]([CH2:10]2)[CH:5]([C:12]([CH2:13][1H:20])([CH3:14])[CH3:15])[CH:4]1[CH2:11]3", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "distonic_protonated_carbonyl_primary_C_radical", "mapped_smiles": "[O+:1]([1H:20])=[C:2]1[CH:3]2[CH2:9][CH:8]3[CH2:7][CH:6]([CH2:10]2)[CH:5]([C:12]([CH2:13])([CH3:14])[CH3:15])[CH:4]1[CH2:11]3", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "M_minus_C4H8_distonic_ion", "mapped_smiles": "[O+:1]([1H:20])=[C:2]1[CH:3]2[CH2:9][CH:8]3[CH2:7][CH:6]([CH2:10]2)[CH:5][CH:4]1[CH2:11]3", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "isobutene_neutral", "mapped_smiles": "[CH2:13]=[C:12]([CH3:14])[CH3:15]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_molecular_ion", "species_ids": ["exo_4_tert_butyladamantan_2_one_molecular_ion"]}, {"state_id": "state_distonic_intermediate", "species_ids": ["distonic_protonated_carbonyl_primary_C_radical"]}, {"state_id": "state_products", "species_ids": ["M_minus_C4H8_distonic_ion", "isobutene_neutral"]}], "steps": [{"step_id": "step_delta_rH_to_carbonyl_oxygen", "from_state": "state_molecular_ion", "to_state": "state_distonic_intermediate", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [13, 20]}, "target": {"type": "bond", "atom_maps": [1, 20]}, "electron_count": 1}, {"source": {"type": "radical_orbital", "atom_maps": [1]}, "target": {"type": "bond", "atom_maps": [1, 20]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [13, 20]}, "target": {"type": "atom", "atom_maps": [13]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_alpha_cleavage_isobutene_loss", "from_state": "state_distonic_intermediate", "to_state": "state_products", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "radical_orbital", "atom_maps": [13]}, "target": {"type": "bond", "atom_maps": [12, 13]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 12]}, "target": {"type": "bond", "atom_maps": [12, 13]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 12]}, "target": {"type": "atom", "atom_maps": [5]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step_8_87_delta_rH", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_delta_rH_to_carbonyl_oxygen", "support_type": "textbook_proposed", "locator": {"page": 201, "equation": "8.87", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.87, FIRST panel and first horizontal arrow, labelled 'delta-r H'. SUBSTRATE: the p.201 text names it explicitly -- 'delta-hydrogen transfer is operative in the elimination of isobutene from exo-tert-butyladamantanone, which proceeds through a seven-membered transition state (Lightner and Wijekoon 1985, Equation 8.87); note that no other competitive hydrogen transfers are possible, because of the molecule's rigid geometry. The endo-isomer loses only C4H9.' The drawn cage is adamantan-2-one carrying a tert-butyl group on the ring carbon TWO bonds from the carbonyl carbon (one bold-wedge and one hashed-wedge methyl mark the exo configuration), i.e. exo-4-tert-butyladamantan-2-one, C14H22O, M+. m/z 206.1665. Atom maps: 1 = carbonyl O, 2 = C2 (carbonyl C), 4 = C3 (alpha, bridgehead), 5 = C4 (beta, bears the tert-butyl), 12 = the quaternary tert-butyl C (gamma), 13 = the delta methyl that donates the H, 20 = the migrating H (written [1H:20] so RDKit keeps it as a mapped atom). The transition-state ring O(1)-C(2)-C(4)-C(5)-C(12)-C(13)-H(20) contains SEVEN atoms, exactly as the text states. STEREOCHEMISTRY: the exo relative configuration drawn with the wedges is NOT encoded in the mapped SMILES (corpus convention); it is what makes this delta transfer geometrically possible, and its absence is why the endo isomer instead loses C4H9. (B) LOCALIZATION: the book prints '+.' directly on the carbonyl oxygen, so the precursor is written n-ionized at oxygen, [O+:1]=[C:2] (O with two bonds -> charge +1 and one odd electron); the product panel prints 'HO' with a '+' over the oxygen and a radical dot on the CH2, i.e. a DISTONIC ion whose charge sits on the three-coordinate protonated-carbonyl oxygen (closed shell there) and whose odd electron sits on the primary carbon C(13). ARCS: Book draws 1 arc -- a single-barbed FISHHOOK whose tail sits on the drawn H-CH2 bond and whose head (one barb only, verified at 22x magnification) points at the oxygen. Move <1> (one electron of the C(13)-H(20) bond delivered to the forming O-H bond) is that drawn arc; move <2> (the oxygen's own odd electron pairing into the same forming O-H bond) and move <3> (the implicit homolysis hook that leaves the odd electron on C(13) as the drawn .CH2) are required for electron balance but are NOT drawn on the page. NO m/z and NO percentage is printed for either the molecular ion or this intermediate, so both are detected=false."}, {"evidence_id": "ev_step_8_87_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_cleavage_isobutene_loss", "support_type": "textbook_proposed", "locator": {"page": 201, "equation": "8.87", "figure": null, "panel": null, "section": "8.10 Hydrogen rearrangements"}, "confidence": 0.85, "curator_note": "Equation 8.87, SECOND panel and second horizontal arrow, labelled 'alpha'. The drawn intermediate carries the radical on the primary carbon C(13) ('.CH2') and the charge on the protonated carbonyl oxygen; alpha cleavage at that carbon radical breaks the C(5)-C(12) bond -- the bond between the adamantane ring carbon and the quaternary tert-butyl carbon -- forming the C(12)=C(13) double bond of isobutene and leaving the odd electron on the ring carbon C(5). The charged fragment is therefore the distonic ion 'protonated-carbonyl oxygen + ring carbon radical', C10H14O+., which the book writes simply as (M - C4H8)+., 100%. ARCS: Book draws 2 arcs, both single-barbed fishhooks -- one whose tail starts at the radical dot of .CH2 and whose head points onto the forming C(12)=C(13) bond, and one whose tail sits on the C(5)-C(12) bond (the near-vertical line from the quaternary carbon up to the ring) and whose head points onto the same forming C(12)=C(13) bond. Moves <1,2> are those two drawn arcs; move <3> (the second electron of the breaking C(5)-C(12) sigma bond dropping onto the ring carbon C(5) as a radical) is the implicit homolysis hook required for electron balance and is NOT drawn on the page -- the book indicates it only by writing the products. The '100%' printed to the right of (M - C4H8)+. is the only intensity on this scheme; the electron energy is not printed on the page, so the 70 eV EI value in ms_context is the chapter-default convention, not a page datum. m/z values (206.1665 for M+., 150.1039 for (M - C4H8)+., 56.0626 for the neutral isobutene) are curator-computed monoisotopic values; the book prints none of them."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 206.1665, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_150_M_minus_C4H8", "species_id": "M_minus_C4H8_distonic_ion", "step_id": "step_alpha_cleavage_isobutene_loss", "observed_mz": 150.1039, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
